US04458079
1-[2-(4-Chlorobenzylthio)-2-(4-chlorophenylthio)ethyl]-1H-imidazole Hydrochloride
The results of gas-liquid chromatography from a similar experiment showed the crude mixture of free bases to consist of: 3% of 1-[2,2-bis(4-chlorophenylthio)ethyl]-1H -imidazole, 55% of the title compound and 22% of 1-[2,2-bis(4-chlorobenzylthio)ethyl]-1H-imidazole.

reactant | 1-[2,2-bis(4-chlorophenylthio)ethyl]-1H -imidazole | ClC1=CC=C(C=C1)SC(CN1C=NC=C1)SC1=CC=C(C=C1)Cl | C17H14Cl2N2S2
reactant | 1-[2,2-bis(4-chlorobenzylthio)ethyl]-1H-imidazole | ClC1=CC=C(CSC(CN2C=NC=C2)SCC2=CC=C(C=C2)Cl)C=C1 | C19H18Cl2N2S2
product | 1-[2-(4-Chlorobenzylthio)-2-(4-chlorophenylthio)ethyl]-1H-imidazole Hydrochloride | 55% | Cl.ClC1=CC=C(CSC(CN2C=NC=C2)SC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C18H16Cl2N2S2.ClH/c19-15-3-1-14(2-4-15)12-23-18(11-22-10-9-21-13-22)24-17-7-5-16(20)6-8-17;/h1-10,13,18H,11-12H2;1H
